US05861421
48c) 4-(3-cyclopentyloxy-4-methoxyphenyl)-4-(2[E]-(3-cyanophenyl)ethenyl)cyclohexan-1-one
A solution of crude 4-(3-cyclopentyloxy-4-methoxyphenyl)-4-(2[E]-(3-cyanophenyl)ethenyl)-1,1-(ethylenedioxy)cyclohexane (0.58 g, 1.06 mmol) in tetrahydrofuran (20 mL) was treated with 3N aqueous hydrochloric acid (2.3 mL) under argon and heated at 75°-80° C. for 1 h. Additional hydrochloric acid (13 mL) was then added and the mixture heated at 75° C. for another 15 min. The reaction mixture was concentrated in vacuo, was extracted into methylene chloride, and the organic extract was washed with water, dilute sodium bicarbonate solution, brine, and was dried (sodium sulfate). Purification by chromatography (silica, 1 to 2% ethyl acetate in methylene chloride) and crystallization from ethyl ether gave the tided compound as a white solid (0.329 g, 74%). mp 116°-117° C. Anal. (C27H29NO3.1/6H2O) calcd: C 77.48, H 7.06, N 3.35, found: C 77.63, H 6.94, N 3.33. 1H-NMR (400 MHz, CDCl3) δ 7.60 (s, 1H), 7.55-7.45 (m, 2H), 7.39 (t, J=7.7 Hz, 1H), 6.97 (dd, J=2.4 Hz, J=8.5 Hz, 1H), 6.89 (d, J=8.4 Hz, 1H), 6.37 (d, J=16.1 Hz, 1H), 6.22 (d, J=16.2 Hz, 1H), 4.77 (p, J=4.5 Hz, 1H), 3.86 (s, 3H), 2.6-1.5 (m, 18H with H2O).

reactant | 4-(3-cyclopentyloxy-4-methoxyphenyl)-4-(2[E]-(3-cyanophenyl)ethenyl)-1,1-(ethylenedioxy)cyclohexane | 1.06 mmol, 0.58 g | C1(CCCC1)OC=1C=C(C=CC1OC)C1(CCC2(CC1)OCCO2)\C=C\C2=CC(=CC=C2)C#N | C29H33NO4
reactant | hydrochloric acid | 3N, 2.3 mL | Cl | ClH
reactant | hydrochloric acid | 13 mL | Cl | ClH
solvent | tetrahydrofuran | 20 mL | O1CCCC1 | C4H8O
product | 4-(3-cyclopentyloxy-4-methoxyphenyl)-4-(2[E]-(3-cyanophenyl)ethenyl)cyclohexan-1-one | 0.329 g, 74% | C1(CCCC1)OC=1C=C(C=CC1OC)C1(CCC(CC1)=O)\C=C\C1=CC(=CC=C1)C#N | C27H29NO3
